US05227381
To 100 ml of ethanol were added 7.0 g of cyclooctylaldehyde and 5.4 g of 3-aminomethylpyridine, and the mixture was subjected to a reaction for 4 hours at about 50° C. After cooling, 2.0 g of sodium boron hydride was added while 20° C. or below was kept by ice cooling, and the mixture was subjected to a reaction for 1 hour at room temperature. The reaction mixture was acidified with 2N hydrochloric acid and concentrated to dryness. To the residue was added an aqueous potassium carbonate solution to make the residue alkaline. The mixture was extracted with chloroform. The extract was washed with water and then dried with anhydrous sodium sulfate. The solvent was removed by evaporation. The residue was subjected to distillation under reduced pressure to obtain 6.4 g of N-(cyclohexylmethyl)-N-(3-pyridylmethyl)amine.

reactant | 3-aminomethylpyridine | 5.4 g | NCC=1C=NC=CC1 | C6H8N2
reactant | sodium boron hydride | 2.0 g | B.[Na]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | N-(cyclohexylmethyl)-N-(3-pyridylmethyl)amine | 6.4 g | C1(CCCCC1)CNCC=1C=NC=CC1 | C13H20N2
